US08754085B2
A solution of (R)-tert-butyl 8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazine-5(6H)-carboxylate (62 mg, 0.139 mmol) in 4M HCl in dioxane (1.252 ml, 5.01 mmol) was left to stir under an atmosphere of nitrogen for 1 hour. The reaction mixture was concentrated in vacuo to afford (R)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate (Intermediate HBR) which was used without further purification.

reactant | (R)-tert-butyl 8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazine-5(6H)-carboxylate | 0.139 mmol, 62 mg | C(C)(=O)O[C@@H]1CCN(C2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C)(C)C | C26H27N3O4
reactant | dioxane | 5.01 mmol, 1.252 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | (R)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate | C(C)(=O)O[C@@H]1CCNC2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2 | C21H19N3O2
